.title cap_XOR2_b
.include "C:/Users/chris/ngspice/Prompts/autohv_bicmos180_pdk/autohv_bicmos180_case.lib"
.param case=0
.param VDD=5.0
Vdd vdd 0 5.0
V_a a 0 2.5
V_b b 0 0.0 AC 1
X1 abar a vdd vdd PMOS50 W={(1.0892)*1e-6} L=0.5u
X2 abar a 0 0 NMOS50 W={(0.4009)*1e-6} L=0.5u
X3 bbar b vdd vdd PMOS50 W={(1.0892)*1e-6} L=0.5u
X4 bbar b 0 0 NMOS50 W={(0.4009)*1e-6} L=0.5u
X5 out a m1 0 NMOS50 W={(0.4009)*1e-6} L=0.5u
X6 m1 b 0 0 NMOS50 W={(0.4009)*1e-6} L=0.5u
X7 out abar m2 0 NMOS50 W={(0.4009)*1e-6} L=0.5u
X8 m2 bbar 0 0 NMOS50 W={(0.4009)*1e-6} L=0.5u
X9 out abar k1 vdd PMOS50 W={(1.2316)*1e-6} L=0.5u
X10 k1 b vdd vdd PMOS50 W={(1.2316)*1e-6} L=0.5u
X11 out a k2 vdd PMOS50 W={(1.2316)*1e-6} L=0.5u
X12 k2 bbar vdd vdd PMOS50 W={(1.2316)*1e-6} L=0.5u
.control
foreach vb 0 5.0
  alter V_b dc=$vb
  ac lin 1 1e6 1e6
  let cpf = abs(imag(V_b#branch))/6283185.307*1e15
  echo "RES cap=$&cpf"
end
.endc
.end
